US06559167B1
N-[3-(Phenoxy)propyl] morpholine was prepared by a reaction of 3-(phenoxy)propyl bromide with morpholine. For example, 3-(phenoxy)propyl bromide (7.8 ml, 50 mmole) was added to morpholine (8 ml) in toluene (50 ml) and refluxed overnight. NaOH solution (2 g of NaOH in 20 ml of water) was added and additionally refluxed for 4 hr. Toluene was removed by distillation under reduced pressure. Residue was treated with dichloromethane(200 ml) and water(200 ml). Dichloromethane layer was dried and concentrated. Residue was treated with dichloromethane-heptane to give 7 g of 4-[3-(phenoxy)propyl] morpholine.

reactant | 3-(phenoxy)propyl bromide | O(C1=CC=CC=C1)CCCBr | C9H11BrO
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | 3-(phenoxy)propyl bromide | 50 mmole, 7.8 ml | O(C1=CC=CC=C1)CCCBr | C9H11BrO
reactant | morpholine | 8 ml | N1CCOCC1 | C4H9NO
reactant | NaOH | 20 ml, 2 g | [OH-].[Na+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[3-(phenoxy)propyl] morpholine | 7 g | O(C1=CC=CC=C1)CCCN1CCOCC1 | C13H19NO2
